US07361671B2
A solution of 3,5-bis-chloromethyl-2,6-dimethyl-pyridine (18.0 g, 88.2 mmol) in dimethylformamide (110 mL, 0.8 M) is cooled to 0° C. and treated with a solution of potassium cyanide (12.4 g, 190 mmol) in water (35 mL). The cooling bath is removed, and after 4 h, ice-cooled H2O (600 mL) is added. The resulting solids are filtered, washed with ice-cooled water (100 mL) and recrystallized from H2O to provide 5-cyanomethyl-2,6-dimethyl-pyridin-3-yl-acetonitrile as light brown flakes (10.9 g, 67%): mp 65-67° C.; Rf 0.23 (20% n-heptane in ethyl acetate); 1H NMR (CDCl3, 300 MHz) δ 7.61 (s, 1 H), 3.69 (s, 4 H), 2.56 (s, 6 H); ESI-LCMS m/z calcd for C11H11N3: 185.1; found 186.0 (M+1)+. Anal. Calcd for C11H11N3.0.15H2O: C, 70.30; H, 6.06; N, 22.36. Found: C, 70.44; H, 6.01; N, 22.13.

reactant | 3,5-bis-chloromethyl-2,6-dimethyl-pyridine | 88.2 mmol, 18.0 g | ClCC=1C(=NC(=C(C1)CCl)C)C | C9H11Cl2N
reactant | potassium cyanide | 190 mmol, 12.4 g | [C-]#N.[K+]
reactant | dimethylformamide | 0.8 M, 110 mL | CN(C=O)C | C3H7NO
solvent | water | 35 mL | O | H2O
product | 5-cyanomethyl-2,6-dimethyl-pyridin-3-yl-acetonitrile | C(#N)CC=1C=C(C(=NC1C)C)CC#N | C11H11N3
